US07420083B2
Synthesis of 4-{2-[({(E)-1-[4-(tert-Butyl)-phenyl]-ethylidene}amino)oxy]-ethoxy}-2-hydroxy-benzoic Acid
To a solution of 4-{2-[1-(4-tert-butyl-phenyl)-ethylideneaminooxy]-ethoxy}-2-hydroxy-benzoic acid methyl ester (0.546 g, 1.29 mmol) in ethanol (10 mL) was added 1 M sodium hydroxide solution (2 mL, 2 mmol) and the reaction was heated at reflux for 40 minutes. After cooling to room temperature, it was concentrated to a small volume, acidified to pH 1 with 2M hydrochloric acid solution and extracted with ethyl acetate. The combined organics were dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/hexanes (30/70)+1% formic acid to afford the title compound (0.224 g, 47%) as a white solid. mp=157.4-158.7° C.; mass spectrum (+ESI, M+H) m/z 372. 1H NMR (400 MHz, DMSO-d6); δ 13.60 (bs, 1H), 11.50 (bs, 1H), 7.67 (d, 1H), 7.57 (d, 2H), 7.40 (d, 2H), 6.52 (m, 2H), 4.40 (t, 2H), 4.30 (t, 2H), 2.13 (s, 3H), 1.27 (s, 9H). Elemental analysis: Calcd. for C21H25NO5: C, 67.91; H, 6.78; N, 3.77, Found: C, 67.69; H, 6.81; N, 3.68.

reactant | 4-{2-[1-(4-tert-butyl-phenyl)-ethylideneaminooxy]-ethoxy}-2-hydroxy-benzoic acid methyl ester | 1.29 mmol, 0.546 g | COC(C1=C(C=C(C=C1)OCCON=C(C)C1=CC=C(C=C1)C(C)(C)C)O)=O | C22H27NO5
reactant | sodium hydroxide | 2 mmol, 1 M, 2 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-{2-[({(E)-1-[4-(tert-Butyl)-phenyl]-ethylidene}amino)oxy]-ethoxy}-2-hydroxy-benzoic Acid | 0.224 g, 47% | C(C)(C)(C)C1=CC=C(C=C1)\C(\C)=N\OCCOC1=CC(=C(C(=O)O)C=C1)O | C21H25NO5
